US06359145B1
A solution of 2.0M benzylmagnesium chloride in tetrahydrofuran (2.38 ml) was added dropwise to a stirred mixture of lithium chloride (20.2 mg) and copper(II) chloride (32 mg) in tetrahydrofuran (10 ml) at −78° C. (dry-ice/acetone) for a period of 10 minutes under nitrogen atmosphere. A solution of (3S)-3-benzyloxy-1,2-epoxybutane (obtained in Preparation 9) (425 mg) in tetrahydrofuran (10 ml) was added dropwise to this mixture at −78° C. over 10 minutes. The resulting mixture was stirred at −78° C. for 2.5 hours and then allowed to warm to room temperature, and stirred overnight. The reaction mixture was treated with saturated ammonium chloride solution (20 ml) at an ice-bath temperature, and then diluted with ethyl acetate (100 ml). The organic layer was washed with H2O (50 ml) and brine (50 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel (20 g) chromatography eluted with hexane/ethyl acetate (10:1) to give (2S)-2-benzyloxy-5-phenylpentan-3-ol (620 mg).

reactant | benzylmagnesium chloride | 2.0M | C(C1=CC=CC=C1)[Mg]Cl
reactant | lithium chloride | 20.2 mg | [Cl-].[Li+]
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | (3S)-3-benzyloxy-1,2-epoxybutane | 425 mg | C(C1=CC=CC=C1)O[C@H](C1CO1)C | C11H14O2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2.38 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper(II) chloride | 32 mg | [Cu](Cl)Cl
product | (2S)-2-benzyloxy-5-phenylpentan-3-ol | 620 mg | C(C1=CC=CC=C1)O[C@@H](C)C(CCC1=CC=CC=C1)O | C18H22O2
